US04925864
Preparation of 5-(N-acetyl-N-methylamino)-3-(tert-butyl)-1-(2,4,6-trichlorophenyl)-1H-1,2,4-triazole
6.7 g (0.02 mol) of 3-(tert-butyl)-5-(N-methylamino)-1-(2,4,6-trichlorophenyl)-1H-1,2,4-triazole was added to 51 g (0.5 mol) of acetic anhydride, and the mixture was stirred under reflux for 1 hour. Then, excess acetic anhydride was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain 5.5 g (yield: 73.3 g) of the desired compound as white powder. Melting point: 93°-94° C.

reactant | 3-(tert-butyl)-5-(N-methylamino)-1-(2,4,6-trichlorophenyl)-1H-1,2,4-triazole | 0.02 mol, 6.7 g | C(C)(C)(C)C1=NN(C(=N1)NC)C1=C(C=C(C=C1Cl)Cl)Cl | C13H15Cl3N4
reactant | acetic anhydride | 0.5 mol, 51 g | C(C)(=O)OC(C)=O | C4H6O3
product | 5-(N-acetyl-N-methylamino)-3-(tert-butyl)-1-(2,4,6-trichlorophenyl)-1H-1,2,4-triazole | 5.5 g | C(C)(=O)N(C)C1=NC(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C(C)(C)C | C15H17Cl3N4O
